US08471005B2
N-(2-{2-[(7-methoxy-1′-methyl-3,4-dihydrospiro[chromene-2,4′-piperidin]-6-yl)amino]pyrrolo[2,1-f][1,2,4]triazin-7-yl}phenyl)-N-methylmethanesulfonamide
Following a procedure analogous to 251c, 7-methoxy-1′-methyl-3,4-dihydrospiro[chromene-2,4′-piperidin]-6-amine (0.15 g, 57 mmol) and N-[2-(2-Methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-N-methyl-methanesulfonamide (69 mg, 19 mmol) were converted to the title compound (23 mgs, 18%) isolated as a TFA salt. H-NMR (DMSO-d6) δ 9.49 (broad s, 1H), 8.92 (s, 1H), 7.94 (s, 1H), 7.65 (s, 2H), 7.69-7.66 (m, 3H), 6.98-6.94 (m, 2H), 6.52 (s, 1H), 3.80 (s, 3H), 3.39-3.31 (m, 2H), 3.23-3.13 (m, 2H), 3.06 (s, 3H), 2.87-2.81 (m, 7H), 2.55-2.51 (m, 2H), 2.00-1.91 (m, 2H), 1.84-1.76 (m, 32H); LC/MS (ESI+): 563.17 (M+H).

reactant | 7-methoxy-1′-methyl-3,4-dihydrospiro[chromene-2,4′-piperidin]-6-amine | 57 mmol, 0.15 g | COC1=C(C=C2CCC3(CCN(CC3)C)OC2=C1)N | C15H22N2O2
reactant | N-[2-(2-Methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-N-methyl-methanesulfonamide | 19 mmol, 69 mg | CS(=O)C1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)N(S(=O)(=O)C)C | C15H16N4O3S2
product | N-(2-{2-[(7-methoxy-1′-methyl-3,4-dihydrospiro[chromene-2,4′-piperidin]-6-yl)amino]pyrrolo[2,1-f][1,2,4]triazin-7-yl}phenyl)-N-methylmethanesulfonamide | 23 mgs, 18% | COC1=C(C=C2CCC3(CCN(CC3)C)OC2=C1)NC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)N(S(=O)(=O)C)C | C29H34N6O4S
